US07312233B2
Benzyl 3-(hydroxymethyl)quinolin-7-ylcarbamate
To a stirred mixture of benzyl 3-formylquinolin-7-ylcarbamate (2.0 g, 0.0065 mol), THF (50 mL), MeOH (50 mL), and water (50 mL) was added sodium tetrahydroborate (0.25 g, 0.0065 mol). The mixture was stirred at rt until LC-MS indicated no SM. The mixture was acidified with 1N HCl and concentrated under vacuum, and then treated with aq. NaHCO3 solution and EtOAc. The organic layer was separated and washed with brine, dried (Na2SO4), and evaporated. The residue was purified by column chromatography on silica gel using MeOH-EtOAc (0-10%) as eluent to give the product (1.3 g, 64%) as a light yellow solid. LC-MS: 1.83 min, 309.2 (M+1).

reactant | benzyl 3-formylquinolin-7-ylcarbamate | 0.0065 mol, 2.0 g | C(=O)C=1C=NC2=CC(=CC=C2C1)NC(OCC1=CC=CC=C1)=O | C18H14N2O3
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | sodium tetrahydroborate | 0.0065 mol, 0.25 g | [BH4-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | MeOH | 50 mL | CO | CH4O
product | Benzyl 3-(hydroxymethyl)quinolin-7-ylcarbamate | 1.3 g, 64% | OCC=1C=NC2=CC(=CC=C2C1)NC(OCC1=CC=CC=C1)=O | C18H16N2O3
